US07618960B2
Synthesis of 2-[(3,4,5-trifluorobenzyl)amino]ethanol
Sodium triacetoxyborohydride (14.1 g) was added to a solution of 3,4,5-trifluorobenzaldehyde (5.0 mL), ethanolamine (3.52 g), and acetic acid (10.1 mL) in THF (100 mL) under ice-cooling, and the reaction solution was stirred at room temperature for four hours and 30 minutes. Ice water was added to the reaction solution. The reaction solution was adjusted to pH 7 to 8 by a 5 N sodium hydroxide solution and saturated sodium bicarbonate, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the mother liquor was concentrated under reduced pressure. The residue was purified by column chromatography using a silica gel (chloroform:methanol=1:100 to 1:5) to obtain 6.91 g of the title compound.

reactant | Sodium triacetoxyborohydride | 14.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3,4,5-trifluorobenzaldehyde | 5.0 mL | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | ethanolamine | 3.52 g | C(O)CN | C2H7NO
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 10.1 mL | C(C)(=O)O | C2H4O2
product | 2-[(3,4,5-trifluorobenzyl)amino]ethanol | 6.91 g | FC=1C=C(CNCCO)C=C(C1F)F | C9H10F3NO
